US09447074B2
7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
1,1-dimethylethyl 7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (3.8 g) was dissolved in dioxane (20 ml). Gaseous hydrogen chloride was passed through the reaction mixture for 1.5 h. The reaction was monitored by TLC. On completion the solid formed was collected by filtration and washed with acetone. The solid was then dissolved in water and the mixture neutralised with aqueous sodium hydroxide (1M). The sticky solid formed was extracted with DCM. The organic phase was dried over sodium sulphate and concentrated in vacuo to give a solid. This was purified through silica, eluting the product with 0-12% methanol in DCM. The solid from this was triturated in diethyl ether to give the title compound, 2 g (69%) yield.

reactant | 1,1-dimethylethyl 7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.8 g | CC1=CC(=NC=C1)COC=1C(=NC=CC1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C27H31N3O3
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7-(3-{[(4-methyl-2-pyridinyl)methyl]oxy}-2-pyridinyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | CC1=CC(=NC=C1)COC=1C(=NC=CC1)C1=CC2=C(CCNCC2)C=C1 | C22H23N3O
